US08076345B2
E) (s)-5-(1-Azido-2-(tert-butyldimethylsilyloxy)ethyl)-2-methoxypyrimidine
A mixture of (R)-2-(tert-butyldimethylsilyloxy)-1-(2-methoxypyrimidin-5-yl)ethanol (4.4 g, 15 mmol) and diphenylphosphonic azide (16.7 mL, 77.3 mmol) was dissolved in toluene (53 mL). The mixture was cooled to 0° C. and neat 1,8-diazabicyclo[5.4.0]undec-7-ene (11.8 mL, 77.3 mmol) was added. The reaction was stirred for 30 minutes at 0° C. and then reacted at 60° C. overnight. The mixture was washed with water (50 mL) and 5% HCl (50 mL). The organic layer was concentrated in vacuo and purified by silica gel chromatography (0-25% EtOAc/hexane) to afford a colorless oil.

reactant | (R)-2-(tert-butyldimethylsilyloxy)-1-(2-methoxypyrimidin-5-yl)ethanol | 15 mmol, 4.4 g | [Si](C)(C)(C(C)(C)C)OC[C@H](O)C=1C=NC(=NC1)OC | C13H24N2O3Si
reactant | diphenylphosphonic azide | 77.3 mmol, 16.7 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 77.3 mmol, 11.8 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | toluene | 53 mL | C1(=CC=CC=C1)C | C7H8
product | (s)-5-(1-Azido-2-(tert-butyldimethylsilyloxy)ethyl)-2-methoxypyrimidine | N(=[N+]=[N-])[C@H](CO[Si](C)(C)C(C)(C)C)C=1C=NC(=NC1)OC | C13H23N5O2Si
